US08859566B2
A mixture of {6-Oxo-1-propyl-8-[1-(3-trifluoromethyl-benzyl)-1H-pyrazol-4-yl]-6,7-dihydro-1H-purin-2-ylamino}-acetic acid ethyl ester in THF (2 ml), MeOH (1 ml) and Water (1 ml) was added lithium hydroxide (0.02 g, 0.476 mmol) at 0° C. The reaction mixture was stirred at room temperature for overnight. The reaction mixture was concentrated and water was added. It was extracted with ethyl acetate. Ethyl acetate layer was washed with water and brine. Ethyl acetate layer was dried over sodium sulphate, filtered and concentrated under reduced pressure and the residue obtained was purified by column chromatography to obtain {6-Oxo-1-propyl-8-[1-(3-trifluoromethyl-benzyl)-1H-pyrazol-4-yl]-6,7-dihydro-1H-purin-2-ylamino}-acetic acid (0.035 g, 46%) as a yellow solid.

reactant | {6-Oxo-1-propyl-8-[1-(3-trifluoromethyl-benzyl)-1H-pyrazol-4-yl]-6,7-dihydro-1H-purin-2-ylamino}-acetic acid ethyl ester | C(C)OC(CNC=1N(C(C=2NC(=NC2N1)C=1C=NN(C1)CC1=CC(=CC=C1)C(F)(F)F)=O)CCC)=O | C23H24F3N7O3
reactant | lithium hydroxide | 0.476 mmol, 0.02 g | [OH-].[Li+]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | MeOH | 1 ml | CO | CH4O
solvent | Water | 1 ml | O | H2O
product | {6-Oxo-1-propyl-8-[1-(3-trifluoromethyl-benzyl)-1H-pyrazol-4-yl]-6,7-dihydro-1H-purin-2-ylamino}-acetic acid | 0.035 g, 46% | O=C1C=2NC(=NC2N=C(N1CCC)NCC(=O)O)C=1C=NN(C1)CC1=CC(=CC=C1)C(F)(F)F | C21H20F3N7O3
